US04140789
A mixture of 68.5 g of dimethyl 3-allyloxy-phthalate and 154 ml of a 5 N aqueous solution of sodium hydroxide is heated to the reflux temperature for 3 hours, whilst stirring, and then cooled to a temperature of +10°. 129 ml of 6 N hydrochloric acid are added in portions to the clear reaction solution and during the addition the temperature is not allowed to rise above 20°. After standing for several hours at 0°, the crystalline precipitate is filtered off and washed with a little ice water. After drying at 50°/0.1 mm Hg to constant weight, 3-allyloxy-phthalic acid is obtained; melting point 166°-167°.

reactant | dimethyl 3-allyloxy-phthalate | 68.5 g | C(C=C)OC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C13H14O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 6 N, 129 ml | Cl | ClH
product | 3-allyloxy-phthalic acid | C(C=C)OC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H10O5
